US06498254B1
Preparation of 2-[[1-(5-amino-2-methylphenyl)ethyl]sulfonyl]-pyridine-N-oxide
To a stirred room temperature solution of 3.0 g (0.01 mole) of 2-[[1-(5-acetylamino-2-methylphenyl)ethyl]thio]-pyridine-N-oxide in 10 ml of methanol were added 0.12 g of Na2WO4 followed by 1 g of 35% hydrogen peroxide added over 20 minutes. The exothermic reaction was cooled using a room temperature water bath. The mixture was stirred for 20 minutes, and then treated dropwise with another 1.3 g of 35% H2O2. The mixture was warmed to 35-43° C. for two hours, and then left to stir at room temperature overnight. The mixture was then treated with 5 ml of ethanol, 10 ml of water, and 5 ml of concentrated HCl and heated on a steam cone for one hour. The mixture was cooled, diluted with 20 ml of water and filtered to remove a solid. The filtrate was made basic with concentrated aqueous ammonium hydroxide to give a tacky solid. This solid was taken up in 30 ml of water and 3 ml of concentrated HCl and some insoluble material was filtered off. The filtrate was basified to give a solid precipitate that was filtered off, washed with water, and left to dry overnight. The dry solid weighed 0.85 g and melted at 165-170° C. Recrystallization gave a solid with a melting point of 184-188° C. and having infrared and NMR spectra consistent with the proposed structure.

reactant | 2-[[1-(5-acetylamino-2-methylphenyl)ethyl]thio]-pyridine-N-oxide | 0.01 mole, 3.0 g | C(C)(=O)NC=1C=CC(=C(C1)C(C)SC1=[N+](C=CC=C1)[O-])C | C16H18N2O2S
reactant | hydrogen peroxide | 1 g | OO | H2O2
reactant | H2O2 | 1.3 g | OO | H2O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | HCl | 5 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
reactant | water | 30 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-[[1-(5-amino-2-methylphenyl)ethyl]sulfonyl]-pyridine-N-oxide | NC=1C=CC(=C(C1)C(C)S(=O)(=O)C1=[N+](C=CC=C1)[O-])C | C14H16N2O3S
